US07157464B2
Synthesis of 4-Chloro-3,5-diisopropyl-pyrazole
Following protocol L, a the solution of 3,5-diisopropyl-pyrazole (0.5 g, 3.57 mmol) in DMF (10 mL) was added NCS (0.72 g, 5.3 mmol) in portions under vigorous stirring. The reaction mixture was then heated at 80° C. for 14 h and then the reaction was quenched with water. It was then extracted with ethyl acetate (2×30 mL). The combined organics were washed with brine. The organic extracts were combined and dried with Na2SO4 and finally evaporated to give the title compound as colorless oil.

reactant | 3,5-diisopropyl-pyrazole | 3.57 mmol, 0.5 g | C(C)(C)C1=NNC(=C1)C(C)C | C9H16N2
reactant | NCS | 5.3 mmol, 0.72 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-3,5-diisopropyl-pyrazole | ClC=1C(=NNC1C(C)C)C(C)C | C9H15ClN2
